US08420052B2
A general procedure for the preparation of 3-benzylideneindolin-2-ones: A mixture of 5-fluoroindolin-2-one (151 mg, 1 mmol), 4-(dimethylamino)benzaldehyde (149 mg, 1 mmol), and piperidine (12.7 mg, 0.15 mmol) in 4 mL EtOH was heated at reflux for 15 h and cooled to rt. The solid was collected via filtration and washed with ether (10 mL), and dried under vacuum. The crude product was further purified with silica chromatography (hexane/EtOAc) to afford 3-(4-(dimethylamino)benzylidene)-5-fluoroindolin-2-one as a orange solid (220 mg, 78%, E/Z ratio 7:1). For the major E/Z isomer: 1H NMR (400 MHz, acetone-d6) δ 9.41 (s, 1 H), 7.68-7.64 (m, 3 H), 7.58 (dd, J=9.6, 2.4 Hz, 1 H), 6.98-6.86 (m, 4 H), 3.09 (s, 6 H); MS (ESI) m/z 283 (M+H+).

reactant | 5-fluoroindolin-2-one | 1 mmol, 151 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | 4-(dimethylamino)benzaldehyde | 1 mmol, 149 mg | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | piperidine | 0.15 mmol, 12.7 mg | N1CCCCC1 | C5H11N
solvent | EtOH | 4 mL | CCO | C2H6O
product | 3-(4-(dimethylamino)benzylidene)-5-fluoroindolin-2-one | CN(C1=CC=C(C=C2C(NC3=CC=C(C=C23)F)=O)C=C1)C | C17H15FN2O
